US08003651B2
tert-Butyl (R)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate was treated with HCl (4M in dioxane, 2 mL) in DCM (5 mL) for 6 hours to provide (R)-2-amino-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (54 mg, 99%). MS (APCI+) [M+H] +432.

reactant | tert-Butyl (R)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | ClC1=C(C=C(C=C1)C[C@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)NC(OC(C)(C)C)=O)F | C27H35ClFN5O3
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 54 mg, 99% | Cl.Cl.N[C@@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)CC2=CC(=C(C=C2)Cl)F | InChI=1S/C22H27ClFN5O.2ClH/c1-13-3-6-19-20(13)21(27-12-26-19)29-8-7-28(11-14(29)2)22(30)18(25)10-15-4-5-16(23)17(24)9-15;;/h4-5,9,12-14,18H,3,6-8,10-11,25H2,1-2H3;2*1H/t13-,14+,18-;;/m1../s1
